US06281243B1
3-[(2,3-Dihydro-1H-inden4-yl)oxy]-azetidine hydrochloride
8-(3-Azetidinyloxy)-1,2,3,4-tetrahydroquinoline hydrochloride, mp>250° C. starting from 8-(3-Azetidinyloxy)-1-(diphenylmethyl)-quinoline.

reactant | 8-(3-Azetidinyloxy)-1,2,3,4-tetrahydroquinoline hydrochloride | Cl.N1CC(C1)OC=1C=CC=C2CCCNC12
reactant | 8-(3-Azetidinyloxy)-1-(diphenylmethyl)-quinoline | N1CC(C1)OC=1C=CC=C2C=CCN(C12)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
product | 3-[(2,3-Dihydro-1H-inden4-yl)oxy]-azetidine hydrochloride | Cl.C1CCC2=C(C=CC=C12)OC1CNC1 | InChI=1S/C12H15NO.ClH/c1-3-9-4-2-6-12(11(9)5-1)14-10-7-13-8-10;/h2,4,6,10,13H,1,3,5,7-8H2;1H
